US06673800B2
Preparation of 1-Benzhydryl4-[3-(3-phenyl-4,5-dihydroisoxazol-5-yl) propyl]piperazine
3-(3-Phenyl-4,5-dihydroisoxazol-5-yl)propanal (19.1 mg, 0.087 mmol), 1-(diphenylmethyl)piperazine (20.0 mg, 0.079 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (50.4 mg, 0.237 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 37.1 mg (96.8%) of the target compound was obtained.

reactant | 3-(3-Phenyl-4,5-dihydroisoxazol-5-yl)propanal | 0.087 mmol, 19.1 mg | C1(=CC=CC=C1)C1=NOC(C1)CCC=O | C12H13NO2
reactant | 1-(diphenylmethyl)piperazine | 0.079 mmol, 20.0 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | NaBH(OAc)3 | 0.237 mmol, 50.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzhydryl4-[3-(3-phenyl-4,5-dihydroisoxazol-5-yl) propyl]piperazine | 37.1 mg, 96.8% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCC1CC(=NO1)C1=CC=CC=C1 | C29H33N3O
